US04789680
The starting material may be prepared as follows: A solution of 50 g (0.33 mole) of o-fluorobenzyl azide, 23.1 g (0.33 mole) of propinecarboxylic acid and 400 ml of toluene is stirred for 24 hours at 70° C. After the reaction mixture has cooled to room temperature, the precipitated product is filtered with suction and washed first with toluene and then with diethyl ether, affording 1-(o-fluorobenzyl)-1H-1,2,3-triazole-4-carboxylic acid with a melting point of 151° C. (dec.).

reactant | o-fluorobenzyl azide | 0.33 mole, 50 g | FC1=C(CN=[N+]=[N-])C=CC=C1 | C7H6FN3
reactant | propinecarboxylic acid | 0.33 mole, 23.1 g | C(#CC)C(=O)O | C4H4O2
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(o-fluorobenzyl)-1H-1,2,3-triazole-4-carboxylic acid | FC1=C(CN2N=NC(=C2)C(=O)O)C=CC=C1 | C10H8FN3O2
